US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 2-benzyl-1-(2-naphthylsulphonyl)piperazine to give 2-benzyl-1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 70% yield; m.p. 186-188° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 2-benzyl-1-(2-naphthylsulphonyl)piperazine | C(C1=CC=CC=C1)C1N(CCNC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C21H22N2O2S
product | 2-benzyl-1-(2-naphthylsulphonyl)-4-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 70% yield | C(C1=CC=CC=C1)C1N(CCN(C1)C(=O)C1CCN(CC1)C1=CC=NC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C32H34N4O3S
